US06245746B1
(A) Boc-Tyrosyl-Nδ-Boc-Nα-Methylornithinyl 2-Naphthyl Ether
Using Procedure D, crude Nδ-Boc-Nα-methylornithinyl 2-naphthyl ether (133 mg) and Boc-tyrosine (222 mg) is coupled to afford intermediate (125 mg) as a glassy solid: 1H NMR (400 MHz, CDCl3) δ1.44 (m, 21H), 1.63 (m, 1H), 2.75 (s, 3H), 3.15 (m, 2H), 3.92 (m, 2H), 4.84 (m, 1H), 5.06 (m, 1H), 6.62 (d, J=10.2 Hz, 2H), 7.08 (m, 4H), 7.35 (m, 1H), 7.42 (m, 1H), 7.66 (d, J=10.9 Hz, 1H), and 7.75 (m, 3H).

reactant | Nδ-Boc-Nα-methylornithinyl 2-naphthyl ether | 133 mg | C1=C(C=CC2=CC=CC=C12)OC([C@@H](NC)CCCNC(=O)OC(C)(C)C)=O | C21H28N2O4
reactant | Boc-tyrosine | 222 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
product | Boc-Tyrosyl-Nδ-Boc-Nα-Methylornithinyl 2-Naphthyl Ether | 125 mg | C1=C(C=CC2=CC=CC=C12)OC([C@@H](N(C)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O)CCCNC(=O)OC(C)(C)C)=O | C35H45N3O8
